US08859768B2
To a suspension of 2-(2-acetamido-5-methylpyridin-4-yl)-4-iodo-1,3-oxazole-5-carboxylic acid (10.0 g, 26 mmol) in THF (200 mL) was added TEA (11.0 mL, 78.0 mmol). The reaction mixture was allowed to stir at rt for 1 h and then isobutyl carbonochloridate (10.0 mL, 74.0 mmol) was added. The reaction mixture was allowed to stir at rt for 5 hr and then saturated ammonia in THF (100 mL) was added. The reaction mixture was allowed to stir at rt for 30 min and was then diluted with water. The organic solvent was removed by evaporation and the slurry was filtered. The solid was collected, washed with water and dried to give 2-(2-acetamido-5-methylpyridin-4-yl)-4-iodo-1,3-oxazole-5-carboxamide (8.7 g, 87%).

reactant | 2-(2-acetamido-5-methylpyridin-4-yl)-4-iodo-1,3-oxazole-5-carboxylic acid | 26 mmol, 10.0 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)I)C(=O)O)C | C12H10IN3O4
reactant | isobutyl carbonochloridate | 74.0 mmol, 10.0 mL | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | ammonia | N | H3N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-acetamido-5-methylpyridin-4-yl)-4-iodo-1,3-oxazole-5-carboxamide | 8.7 g, 87% | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)I)C(=O)N)C | C12H11IN4O3
